US07361786B2
(R,R)-2,5-Dimethyl-1-phenyl-phospholane
One equivalent of n-BuLi (8.9 ml, 1.6 M. solution in n-hexane) is added slowly to a solution of 1.57 g phenylphosphine (14.3 mmol) in 100 ml of THF at −78° C. This is then stirred for a further two hours at room temperature. After cooling again to −78° C., one equivalent of the cyclic sulfate 1 in 10 ml of THF is added via a cannula and the reaction is allowed to end by stirring at 25° C. for 3 hours. Before adding a further 1.2 eq. of n-BuLi (9.8 ml) via syringe, the mixture is cooled again, n-BuLi is added and stirring is continued overnight. For the work-up, the solvent was drawn off in vacuo and the residue taken up in 5 ml of water and extracted with 50 ml of methylene chloride. After the phase separation the solvent is removed and the residue is distilled in vacuo. An almost colourless syrup is obtained in a yield of 71% (1.95 g).

reactant | n-BuLi | 1.6 M, 8.9 ml, One equivalent | [Li]CCCC
reactant | phenylphosphine | 14.3 mmol, 1.57 g | C1(=CC=CC=C1)P | C6H7P
reactant | n-BuLi | 9.8 ml, 1.2 eq. | [Li]CCCC
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | (R,R)-2,5-Dimethyl-1-phenyl-phospholane | yield of 71% | C[C@H]1P([C@@H](CC1)C)C1=CC=CC=C1 | C12H17P
